US08357703B2
6-((5-methyl-3-pyrrolidin-1-yl-isoxazol-4-yl)methoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 40f, 6-(5-methyl-3-pyrrolidin-1-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (100 mg, 0.28 mmol), was converted, using 4-aminotetrahydropyran instead of isopropylamine, to the title compound (30 mg, 49%) which was obtained as a white solid after purification by chromatography (silica, 40 to 90% ethyl acetate in heptane). MS: m/e=387.2 [M+H]+.

reactant | 6-(5-methyl-3-pyrrolidin-1-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.28 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)N1CCCC1)=O | C16H19N3O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-((5-methyl-3-pyrrolidin-1-yl-isoxazol-4-yl)methoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 30 mg, 49% | CC1=C(C(=NO1)N1CCCC1)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C20H26N4O4
